US07919506B2
Preparation 46: N-(2-(1-methoxycycloheptyl)-5-(trifluoromethyl)benzyl)-N-(3,5-bis(trifluoromethyl)benzyl)-2-(2-(tert-butyldimethylsilyloxy)ethyl)-2H-tetrazol-5-amine
To a solution of N-(2-(1-methoxycycloheptyl)-5-(trifluoromethyl)benzyl)-N-(3,5-bis(trifluoromethyl)benzyl)-2-methyl-2H-tetrazol-5-amine (51 mg; 0.086 mmol) in 2-methyltetrahydrofuran (1.0 mL) was added sodium carbonate (38 mg; 0.358 mmol), N,N-dimethylformamide (0.4 mL) and (2-bromoethoxy)-tert-butyldimethylsilane (100 mg; 0.418 mmol). Reaction was stirred for 16 hours at 60° C. The reaction was diluted with ethyl acetate, washed twice with water and then brine. The organic was dried over sodium sulfate and concentrated in vacuo. The residue was purified by 4 g RediSep column (Teledyne Isco Inc., Lincoln Nebr.) (eluted with 5-35% ethyl acetate in heptane) to give 45 mg (70% yield) of a colorless gum. 1H NMR (400 MHz CDCl3) δ ppm 7.77 (s, 1H), 7.73 (s, 2H), 7.47 (d, J=9.96 Hz, 2H), 7.41 (d, J=8.30 Hz, 1H), 5.11 (s, 2H), 4.80 (s, 2H), 4.55 (t, J=5.39 Hz 2H), 4.08 (t, J=5.39 Hz, 2H), 2.94 (s, 3H), 2.12 (m, 2H), 1.98 (m, 2H), 1.8-1.45 (m, 8H), 0.82 (s, 9H), −0.07 (s, 6H).

reactant | N-(2-(1-methoxycycloheptyl)-5-(trifluoromethyl)benzyl)-N-(3,5-bis(trifluoromethyl)benzyl)-2-methyl-2H-tetrazol-5-amine | 0.086 mmol, 51 mg | COC1(CCCCCC1)C1=C(CN(C=2N=NN(N2)C)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C=C(C=C1)C(F)(F)F | C27H28F9N5O
reactant | sodium carbonate | 0.358 mmol, 38 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | N,N-dimethylformamide | 0.4 mL | CN(C=O)C | C3H7NO
reactant | (2-bromoethoxy)-tert-butyldimethylsilane | 0.418 mmol, 100 mg | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
solvent | 2-methyltetrahydrofuran | 1.0 mL | CC1OCCC1 | C5H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(2-(1-methoxycycloheptyl)-5-(trifluoromethyl)benzyl)-N-(3,5-bis(trifluoromethyl)benzyl)-2-(2-(tert-butyldimethylsilyloxy)ethyl)-2H-tetrazol-5-amine | 45 mg, 70% yield | COC1(CCCCCC1)C1=C(CN(C=2N=NN(N2)CCO[Si](C)(C)C(C)(C)C)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C=C(C=C1)C(F)(F)F | C34H44F9N5O2Si
